US08067450B2
Step 4: 5-{4-[2-hydroxy-2-(2-methoxyphenyl)ethoxy]benzyl}-1,3-thiazolidine-2,4-dione
(5Z)-5-{4-[2-hydroxy-2-(2-methoxyphenyl)ethoxy]benzylidene}-1,3-thiazolidine-2,4-dione (1.00 g, 2.69 mmol) was dissolved in THF (20 ml). Water (20 ml) was added and then sufficient additional THF was added to give a clear solution. A small crystal of cobalt chloride was added followed by 2,2′-bipyridine (95 mg, 0.61 mmol). The reaction mixture was cooled to 0° C. NaBH4 was added in portions until the blue color persisted. The color gradually faded and was regenerated repeatedly by small additions of borohydride and HOAc. When HPLC indicated that the reaction was complete the reaction mixture was partitioned between EtOAc and H2O. HOAc was added until the pH of the aqueous phase was ca. 6, and the aqueous phase was extracted with EtOAc. The combined organic phases were washed with brine, dried (Na2SO4), filtered and evaporated in vacuo. The residue was chromatographed on a small silica gel column eluting with 20% EtOAc/DCM. Fractions containing product were combined and evaporated in vacuo to give 0.63 g (63%) of the title compound as a white solid. MS (ESI−) for C19H19NO5S m/z 372.1 (M−H)−.

reactant | (5Z)-5-{4-[2-hydroxy-2-(2-methoxyphenyl)ethoxy]benzylidene}-1,3-thiazolidine-2,4-dione | 2.69 mmol, 1.00 g | OC(COC1=CC=C(\C=C/2\C(NC(S2)=O)=O)C=C1)C1=C(C=CC=C1)OC | C19H17NO5S
reactant | 2,2′-bipyridine | 0.61 mmol, 95 mg | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
reactant | NaBH4 | [BH4-].[Na+]
reactant | borohydride | [BH4-]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | cobalt chloride | [Co](Cl)Cl
solvent | HOAc | CC(=O)O | C2H4O2
solvent | Water | 20 ml | O | H2O
product | 5-{4-[2-hydroxy-2-(2-methoxyphenyl)ethoxy]benzyl}-1,3-thiazolidine-2,4-dione | 0.63 g, 63% | OC(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C1=C(C=CC=C1)OC | C19H19NO5S
